US06221865B1
N-BOC-4-Amino-3-methoxybenzoic acid
4-Amino-3-methoxybenzoic acid (1 g, 5.98 mmol) was reacted according to the same procedure as that used in the process for preparing N-BOC-4-aminobenzoic acid. The resulting solid was recrystallized from ethyl acetate and hexanes to provide the desired product (1.5 g) as tan crystals: m.p. 176-178° C.; 1H NMR (CD3OD) d 1.52 (9H, s), 3.92 (3H, s), 7.56 (1H, s), 7.62 (1H, d, J=8.4 Hz), 7.96 (1H, s), 8.03 (1H, d, J=8.4 Hz); 13C NMR (CD3OD) d 28.53, 56.35, 81.78, 112.01, 118.58, 124.20, 125.76, 133.84, 149.04, 154.20, 169.60; HRMS Calc. for C13H17NO5, 267.1107; Found, 267.1103.

reactant | 4-Amino-3-methoxybenzoic acid | 5.98 mmol, 1 g | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | N-BOC-4-aminobenzoic acid | C(=O)(OC(C)(C)C)NC1=CC=C(C(=O)O)C=C1 | C12H15NO4
product | N-BOC-4-Amino-3-methoxybenzoic acid | 1.5 g | C(=O)(OC(C)(C)C)NC1=C(C=C(C(=O)O)C=C1)OC | C13H17NO5
